US08067620B2
Step 1. To a stirred solution of cis-4-aminocyclohexanol hydrochloride (1.0 g, 6.6 mmol) and triethylamine (2 ml) in CH2Cl2 (25 ml) was added Boc2O (1.44 g, 6.6 mmol). The resulting mixture was stirred at rt for 3 h. After removal of the solvent, the residue was washed with water (30 ml) and dried in vacuo to give tert-butyl cis-4-hydroxycyclohexylcarbamate (0.80 g, 56%) as a colorless solid. mp 85-86° C.; 1H NMR (500 MHz, CDCl3) δ 1.30-1.74 (m, 8H), 1.45 (s, 9H), 3.48-3.60 (m, 1H), 3.86-3.94 (m, 1H), 4.46-4.60 (m, 1H). Step 2. Diisopropyl azodicarboxylate (0.32 ml, 1.68 mmol) was added dropwise to a mixture of OZ288 (0.5 g, 1.4 mmol), tert-butyl cis-4-hydroxycyclohexylcarbamate (0.3 g, 1.4 mmol), and triphenylphosphine (0.44 g, 1.68 mmol) in THF (50 ml) at 0° C. under N2 atmosphere. The resulting mixture was stirred at rt for 24 h. After removal of the solvent, the crude product was purified by crystallization from EtOH to afford the desired phenol ether (0.60 g, 77%) as a colorless solid. mp 150-151° C.; 1H NMR (500 MHz, CDCl3) δ 1.18-1.30 (m, 2H), 1.45 (s, 9H), 1.48-2.16 (m, 30H), 2.43-2.54 (m, 1H), 3.45-3.58 (m, 1H), 4.07-4.17 (m, 1H), 4.34-4.48 (m, 1H), 6.80 (d, J=9.0 Hz, 2H), 7.09 (d, J=9.0 Hz, 2H); 13C NMR (125.7 MHz, CDCl3) δ 26.47, 26.87, 28.40, 30.27, 30.86, 31.62, 34.74, 34.79, 36.39, 36.79, 42.05, 48.76, 75.07, 108.44, 111.36, 115.90, 127.64, 138.54, 155.94, 162.77. Step 3. A mixture of the above phenol ether (0.50 g, 0.90 mmol) and 1.5 M MsOH in THF (6 ml) was stirred at rt for 6 h. The resulting precipitate was filtered off, washed with ether (30 ml), and dried in vacuo to afford trioxolane OZ537 (0.48 g, 96%) as a colorless solid. mp 167-168° C.; 1H NMR (500 MHz, DMSO-d6) δ 1.35-1.59 (m, 6H), 1.61-1.96 (m, 22H), 2.02-2.15 (m, 2H), 2.31 (s, 3H), 2.47-2.60 (m, 1H), 3.01-3.15 (m, 1H), 4.17-4.27 (m, 1H), 6.86 (d, J=8.8 Hz, 2H), 7.10 (d, J=8.8 Hz, 2H), 7.78 (brs, 3H); 13C NMR (125.7 MHz, DMSO-d6) δ 25.99, 26.40, 28.16, 29.31, 31.49, 34.29, 34.45, 35.96, 36.27, 40.88, 48.57, 73.81, 108.34, 110.73, 115.85, 127.70, 138.27, 155.60. Anal. Calcd for C29H43NO7S: C, 63.36; H, 7.88; N, 2.55. Found: C, 63.76; H, 7.78; N, 2.31.

reactant | cis-4-aminocyclohexanol hydrochloride | 6.6 mmol, 1.0 g | Cl.N[C@H]1CC[C@H](CC1)O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 6.6 mmol, 1.44 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl cis-4-hydroxycyclohexylcarbamate | 0.80 g, 56% | O[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
